US04686309
2,3-Diphenyl-5-methylamino-2,5-dihydrofuran can be prepared as follows: benzoin (29.7 g) dissolved in tetrahydrofuran (400 cc) is added to a suspension of sodium hydride (3.4 g) in tetrahydrofuran (50 cc) kept under a nitrogen atmosphere at a temperature in the region of 0° C., and the reaction mixture is stirred for 30 minutes while the temperature is allowed to return to 20° C. Diethyl 2-methyliminoethylphosphonate (27 g) in tetrahydrofuran (270 cc) is then added. The reaction mixture is then heated to reflux for 1 hour and then cooled to a temperature in the region of 20° C. Water (1 liter) is then added and the mixture is extracted twice with ethyl acetate (200 cc in total). The organic phase is washed with water (2×100 cc) and then dried over magnesium sulphate, filtered and then evaporated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue is washed with ethyl ether (100 cc) and then filtered. The filtrate is evaporated to dryness under reduced pressure (2.7 kPa) at 40° C. to give an oil which is purified by "flash" chromatography [eluent: ethyl acetate]. After fractions 8 and 19 have been evaporated to dryness under reduced pressure (2.7 kPa) at 40° C., an orange oil is obtained which is dissolved in a mixture (20 cc) of ethyl acetate and ethyl ether (50/50 by volume). A 5.7N solution (3.9 cc) of hydrochloric acid gas in ethyl ether is added to the solution. The solid obtained is separated off by filtration and then recrystallised from isopropanol (120 cc). In this way 2,3-diphenyl-5-methylamino-2,5-dihydrofuran hydrochloride (2.8 g) is obtained in the form of a white solid melting at 190° C.

reactant | 2,3-Diphenyl-5-methylamino-2,5-dihydrofuran | C1(=CC=CC=C1)C1OC(C=C1C1=CC=CC=C1)NC | C17H17NO
reactant | benzoin | 29.7 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | sodium hydride | 3.4 g | [H-].[Na+]
reactant | Diethyl 2-methyliminoethylphosphonate | 27 g | CN=CCP(OCC)(OCC)=O | C7H16NO3P
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 400 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 270 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 cc | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | Water | 1 liter | O | H2O
product | 2,3-diphenyl-5-methylamino-2,5-dihydrofuran hydrochloride | 2.8 g | Cl.C1(=CC=CC=C1)C1OC(C=C1C1=CC=CC=C1)NC | InChI=1S/C17H17NO.ClH/c1-18-16-12-15(13-8-4-2-5-9-13)17(19-16)14-10-6-3-7-11-14;/h2-12,16-18H,1H3;1H
